US05461036
(S)-(+)-2-Acetoxyhexadecanoic acid (0.5 g; prepared by the method described in Agric. Biol. Chem., 54(12), 3337-3338, 1990) was dissolved in a solution of potassium hydroxide (1.0 g) in 50% aqueous ethanol was stirred at 70° C. for 2 hours. After the ethanol was evaporated, the reaction mixture was acidified with citric acid and extracted with ethyl acetate. The ethyl acetate layer was dried and concentrated to give (S)-(-)-2-hydroxyhexadecanoic acid (407 mg). The product was dissolved in DMF (20 ml ), and N-hydroxysuccinimide (173 mg) and N,N'-dicyclohexylcarbodiimide (310 mg) were added to the solution. The mixture was stirred at room temperature for 12 hours and then filtered. 6-(4'-N-Glycyl-spicaminyl-amino)purine hydrochloride (0.60 g) and triethylamine (1.0 ml ) were added to the filtrate, and the mixture was stirred for 12 hours, concentrated and subjected to chromatography on a silica gel column with eluent systems of chloroform-methanol (from 7:1 to 5:1 ) to give SPK271 in the yield of 97 mg. Substantially no contamination of the diastereomer was observed.

reactant | (S)-(+)-2-Acetoxyhexadecanoic acid | C(C)(=O)O[C@H](C(=O)O)CCCCCCCCCCCCCC | C18H34O4
solvent | potassium hydroxide | 1.0 g | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (S)-(-)-2-hydroxyhexadecanoic acid | 407 mg | O[C@H](C(=O)O)CCCCCCCCCCCCCC | C16H32O3
